US05641778
1N sodium hydroxide solution (11.1 ml) is added to a solution of 2-(3-methoxypropoxy)-benzoic acid ethyl ester (2.4 g) in ethanol (20 ml) and water (10 ml), and the reaction mixture is stirred at 50° C. for 7 hours. The mixture is concentrated and the acidified aqueous phase is extracted with dichloremethane (3×40 ml). The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. 2-(3-Methoxypropoxy)-benzoic acid, Rf (hexane-ethyl acetate-glacial acetic acid 1:2:0.1)=0.43, is obtained in the form of a yellowish oil.

reactant | sodium hydroxide | 1N, 11.1 ml | [OH-].[Na+]
reactant | 2-(3-methoxypropoxy)-benzoic acid ethyl ester | 2.4 g | C(C)OC(C1=C(C=CC=C1)OCCCOC)=O | C13H18O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-(3-Methoxypropoxy)-benzoic acid | COCCCOC1=C(C(=O)O)C=CC=C1 | C11H14O4
